US05827881
A! A solution of 4-aminobutyraldehyde diethylacetale (90 ml, 0.5 mole) and butyl bromide (121 ml, 1.1 mole) in ethanol (1.000 ml) was added with a 1N solution of sodium hydroxide (1.130 ml). The reaction mixture was refluxed for 8 hours. The reaction solvent was evaporated off and the aqueous solution was extracted with diethyl ether. The organic phases were combined and anhydrified over sodium sulfate, then evaporated under vacuum. The resulting crude was purified by fractionated distillation to yield 54 g of 4-dibutylaminobutyraldehyde diethylacetale (yield: 39%). B.p.: 95°-06° C. (0,05 mmHg).

reactant | 4-aminobutyraldehyde | NCCCC=O | C4H9NO
reactant | butyl bromide | 1.1 mole, 121 ml | C(CCC)Br | C4H9Br
reactant | sodium hydroxide | 1.130 ml | [OH-].[Na+]
solvent | ethanol | 1.000 ml | C(C)O | C2H6O
product | 4-dibutylaminobutyraldehyde | 54 g, yield: 39% | C(CCC)N(CCCC=O)CCCC | C12H25NO
